US06632840B1
b) Bis(3-methylsulfonyl-4-i-propylbenzoyl)guanidine
The acid chloride 1 a) and 3.9 g of 3-methylsulfonyl-4-i-propylbenzoylguanidine are dissolved in 50 ml of DMF, and 3.4 g of K2CO3 are then added. The mixture is stirred at RT for 4 h and then left to stand overnight. The solution is subsequently concentrated and the residue stirred up in 200 ml of water. The solid is filtered off and washed with 100 ml of water. This solid is then dissolved in 100 ml of EA and washed 1× with 10 ml of 1N HCl and then 1× with 50 ml of NaCl solution. Drying takes place over Na2SO4 and the solvent is removed in vacuo. A yellow solid is obtained which is purified by being titurated twice with 20 ml of diethyl ether and subsequently being filtered off. The product is dried in vacuo and 1.9 g are obtained of a white solid, mp 218-221° C. Rf (CH2Cl2/MeOH 20:1)=0.57 MS (ES):508 (M+1)

reactant | 3-methylsulfonyl-4-i-propylbenzoylguanidine | 3.9 g | CS(=O)(=O)C=1C=C(C(=O)NC(=N)N)C=CC1C(C)C | C12H17N3O3S
reactant | K2CO3 | 3.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Bis(3-methylsulfonyl-4-i-propylbenzoyl)guanidine | CS(=O)(=O)C=1C=C(C(=O)NC(NC(C2=CC(=C(C=C2)C(C)C)S(=O)(=O)C)=O)=N)C=CC1C(C)C | C23H29N3O6S2
